* C:\Users\ethan\Documents\GitHub\Big-Crete-Calculator\Hardware\V1 Prototype Boards\Simulations\Draft2.asc
R1 N006 N012 25
R2 0 N006 50
R3 N003 0 150
R4 N013 N003 100
R5 N013 N011 125
V1 N013 N012 0
I1 0 N011 0
V2 0 N003 0
V3 vi 0 PULSE(0 1 0 1n 1n 46.6m 93.3m)
R6 vo vi 10k
R7 0 vo 5k
C1 vo 0 2µ
R8 vid 0 500k
V4 vid 0 0
R9 vo1 0 20e6
R10 N009 N008 1k
B1 0 vo1 I=(V(vid)*100u)
B2 N008 0 V=(V(vo1))
R12 vo2 0 100e9
B3 0 vo2 I=(V(vid2)*100u)
B4 vo 0 V=(V(vo2))
I2 N014 0 10e-6
R11 N015 N014 100k
R13 0 N015 1e6
XU2 0 N014 NC_01 NC_02 N015 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R14 N016 0 10
I3 0 N016 10e-6
R15 N017 N016 100k
R16 0 N017 1Meg
I4 0 vid2 PULSE(0 10u 0 1n 1n 0.5m 1m)
R17 vo vid2 100k
R18 0 vo 1Meg
R19 vid2 0 100k
XU1 vs N004 P001 P002 N004 LM741/NS
V5 vs 0 PULSE(0 1 0 1n 1n 5u 10u) AC 1 0
V7 0 P002 15
V8 P001 0 15
C2 N004 0 10f
XU3 vp vm P003 P004 N010 LM741/NS
V6 vs1 0 0 AC 1 0
V9 0 P004 15
V10 P003 0 15
C3 N010 0 10f
B5 N007 vm V=(V(vs1)/2)
B6 N005 N007 V=(V(vs1)/2)
V11 vp N005 -1m
V12 N007 0 0
XU4 vs2 N001 P005 P006 N002 LM741/NS
V13 vs2 0 0 AC 1 0
V14 0 P006 15
V15 P005 0 15
C4 N002 0 10f
R20 N002 N001 9k
R21 N001 0 1k
.ic V(vo)=0
.ac dec 21 0.01 10meg
.lib LM741.MOD
.lib UniversalOpAmp1.lib
.backanno
.end
